US07727713B2
3-Amino-butyric acid (147 mg, 1.43 mmol) was mixed with water (10 mL), dioxane (10 mL) and 2 M NaOH (10 mL). The mixture was cooled to 0° C. and treated with Nvoc-Cl (1.58 mmol). 2 M NaOH was added in small portions (8×1.25 mL) during 75 minutes. The cooling bath was removed and the reaction mixture was left at room temperature o/n. Water (30 mL) was added and the mixture was filtered. The aqueous phase was adjusted to pH=4 with 2 M HCl (aq.) and extracted with diethyl ether (3×50 mL). The solid was dissolved in water (50 mL) and diethyl ether (50 mL). The combined organic phases were dried over MgSO4 and evaporated in vacuo affording 176 mg (36%) pure 3-(4,5-dimethoxy-2-nitrobenzyloxycarbonylamino)-butyric acid. 1H-NMR (CDCl3): 7.72 (s, 1H), 7.02 (s, 1H), 5.51 (s, 2H), 5.40-5.30 (br s, 1H), 4.15 (m, 1H), 3.96 (s, 3H), 3.92 (s, 3H), 2.60 (d, 2H), 1.31 (d, 3H). 1 Burgess et al. J. Org. Chem. (1997), 62, 5165-68, Alvarez et al. J. Org. Chem. (1999), 64, 6319-28 and Pedersen et al. Proc Natl Acad Sci (1998), 95, 10523-28

reactant | 3-Amino-butyric acid | 1.43 mmol, 147 mg | NC(CC(=O)O)C | C4H9NO2
reactant | water | 10 mL | O | H2O
reactant | NaOH | 2 M, 10 mL | [OH-].[Na+]
reactant | Nvoc-Cl | 1.58 mmol | COC1=C(C=C(C(=C1)COC(=O)Cl)[N+](=O)[O-])OC | C10H10ClNO6
reactant | NaOH | 2 M | [OH-].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-(4,5-dimethoxy-2-nitrobenzyloxycarbonylamino)-butyric acid | 176 mg, 36% | COC1=CC(=C(COC(=O)NC(CC(=O)O)C)C=C1OC)[N+](=O)[O-] | C14H18N2O8
